US06162824
(mmm) O-[9-(3-cyclopentylthien-2-yl)-9H-fluoren-9-yl]-L-threonine:
from 9-(3-cyclopentylthien-2-yl)-9H-fluoren-9-ol and Nα -(9 fluorenylmethoxycarbonyl)-L-threonine methyl ester following method A, using trifluoroacetic acid as catalyst in place of H2SO4 ;

reactant | 9-(3-cyclopentylthien-2-yl)-9H-fluoren-9-ol | C1(CCCC1)C1=C(SC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)O | C22H20OS
reactant | Nα -(9 fluorenylmethoxycarbonyl)-L-threonine methyl ester | COC([C@@H](NC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)[C@H](O)C)=O | C20H21NO5
reactant | H2SO4 | OS(=O)(=O)O | H2O4S
catalyst | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | O-[9-(3-cyclopentylthien-2-yl)-9H-fluoren-9-yl]-L-threonine | C1(CCCC1)C1=C(SC=C1)C1(C2=CC=CC=C2C=2C=CC=CC12)O[C@@H]([C@H](N)C(=O)O)C | C26H27NO3S
